US05242890
3-(1-hydroxybutyl)-5-[(2,4-dichlorophenoxy)methyl]-1,2,4-oxadiazole: Compound No. 138
0.316 g of 3-propylcarbonyl-5-[(2,4-dichlorophenoxy)methyl]-1,2,4-oxadiazole and 0.20 g of aluminum isopropoxide were added to 10 ml of isopropanol. The mixture was heated to reflux for 48 hours. After evaporation of isopropanol, water was added to the residue. The aqueous solution was extracted with ethylacetate. After evaporation of ethylacetate, the residue was purified by column chromatography(hexane: ethylacetate=3:2) to provide 0.17 g of the desired product(yield: 54.0%).

reactant | 3-propylcarbonyl-5-[(2,4-dichlorophenoxy)methyl]-1,2,4-oxadiazole | 0.316 g | C(CC)C(=O)C1=NOC(=N1)COC1=C(C=C(C=C1)Cl)Cl | C13H12Cl2N2O3
reactant | aluminum isopropoxide | 0.20 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 3-(1-hydroxybutyl)-5-[(2,4-dichlorophenoxy)methyl]-1,2,4-oxadiazole | 0.17 g, yield: 54.0% | OC(CCC)C1=NOC(=N1)COC1=C(C=C(C=C1)Cl)Cl | C13H14Cl2N2O3
